US04061861
Preparation of 7-[α-(3-Methyl-2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonylamino)phenylacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid.
To 30 ml. of dry tetrahydrofuran (THF) were added 441 mg. (1 mmole) of 7-(α-aminophenylacetamido)-3-acetoxymethyl-3-cephem-4-carboxylic acid dihydrate and 0.97 ml. (4 mmoles) of N,O-bis-trimethylsilylacetamide. The mixture was stirred until solution was complete, and then a solution of 210 mg. (1 mmole) of 3-methyl-2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonyl chloride in 5 ml. of THF was added at room temperature. The reaction mixture was stirred for 50 minutes. Methanol (5 ml.) was added to the mixture; however, no precipitation occurred. The mixture then was evaporated to a volume of about 10 ml., and the resulting precipitate was filtered. A mixture of 50 ml. of ethyl acetate and 50 ml. of water was added to the filtrate, and the pH of the mixture was adjusted to 7.5 by addition of sodium bicarbonate. The layers were separated, and the aqueous layer was acidified to pH 2.0 by addition of 1N hydrochloric acid. The acidic mixture then was extracted twice with 50 ml. of a 6:1 mixture of ethyl acetate and tetrahydrofuran. The organic extract was dried over magnesium sulfate, filtered, and evaporated slowly to a volume of about 10 ml. The concentrate was cooled overnight, and the resulting crystalline precipitate was filtered and dried to obtain 275 mg. of the title compound.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 7-(α-aminophenylacetamido)-3-acetoxymethyl-3-cephem-4-carboxylic acid dihydrate | 1 mmole | O.O.NC(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C1=CC=CC=C1
reactant | 3-methyl-2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonyl chloride | 1 mmole | CN1C(N(C2=C1C=CC=C2)C(=O)Cl)=O | C9H7ClN2O2
solvent | Methanol | 5 ml | CO | CH4O
product | 7-[α-(3-Methyl-2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonylamino)phenylacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | CN1C(N(C2=C1C=CC=C2)C(=O)NC(C(=O)NC2[C@@H]1N(C(=C(CS1)COC(C)=O)C(=O)O)C2=O)C2=CC=CC=C2)=O | C27H25N5O8S
